US07557114B2
(a) 1-Fluoro-2-iodo-4,5-dimethyl-benzene
To a stirred suspension of 50.8 mmol 2-fluoro-4,5-dimethyl-phenylamine-(commercial, CAS: 117832-17-4) in 70 ml water was added dropwise at 0° C. a solution of 5 ml concentrated sulfuric acid in 15 ml water. A solution of 66.0 mmol sodium nitrite in 15 ml water was then added dropwise and stirring continued at 0° C. for 60 min. A solution of 173 mmol potassium iodide in 50 ml water was then added dropwise over 30 min while maintaining the reaction temperature between 0 and 5° C. The reaction mixture was then warmed to room temperature and stirred for 3 h before being quenched with aqueous sodium thiosulphite solution and diluted with ethyl acetate. The phases were separated and the organic phase was washed with water and then dried over sodium sulfate and concentrated in vacuo to yield the title compound as a brown solid (69% yield). MS (m/e): 251 ([M+H]+, 100%).

reactant | 2-fluoro-4,5-dimethyl-phenylamine | 50.8 mmol | FC1=C(C=C(C(=C1)C)C)N | C8H10FN
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 66.0 mmol | N(=O)[O-].[Na+]
reactant | potassium iodide | 173 mmol | [I-].[K+]
solvent | water | 70 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 1-Fluoro-2-iodo-4,5-dimethyl-benzene | 69% yield | FC1=C(C=C(C(=C1)C)C)I | C8H8FI
